### PR TITLE
[Merged by Bors] - feat(Data/Nat/Choose/Multinomial): add lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored-by: @AntoineChambert-Loir.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Multinomial.lean [hunk 1]
```diff
@@ -83,6 +83,31 @@ theorem multinomial_congr {f g : α → ℕ} (h : ∀ a ∈ s, f a = g a) :
   · rw [Finset.sum_congr rfl h]
   · exact Finset.prod_congr rfl fun a ha => by rw [h a ha]
 
+theorem multinomial_congr_of_sdiff [DecidableEq α] {f g : α → ℕ} {s t : Finset α}
+    (hst : s ⊆ t) (hf : ∀ a ∈ t \ s, g a = 0) (hg : ∀ a ∈ s, f a = g a) :
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Multinomial.lean]:
```suggestion
    (hst : s ⊆ t) (hg : ∀ a ∈ t \ s, g a = 0) (hfg : ∀ a ∈ s, f a = g a) :
```
there is no `f` in `hf`?

File: Mathlib/Data/Nat/Choose/Multinomial.lean [hunk 2]
```diff
@@ -83,6 +83,31 @@ theorem multinomial_congr {f g : α → ℕ} (h : ∀ a ∈ s, f a = g a) :
...
+    multinomial s f = multinomial t g := by
+  rw [← Nat.mul_right_inj (prod_ne_zero_iff.mpr (fun x _ ↦ factorial_ne_zero (g x))),
+    multinomial_spec, ← sum_subset_zero_on_sdiff hst hf hg, ← multinomial_spec s f]
+  apply congr_arg₂ _ _ rfl
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Multinomial.lean]:
```suggestion
  congr 1
```
?

**Review by joneugster — COMMENTED** [review]
LGTM, thank you for the PR!

File: Mathlib/Data/Nat/Choose/Multinomial.lean [hunk 3]
```diff
@@ -83,6 +83,31 @@ theorem multinomial_congr {f g : α → ℕ} (h : ∀ a ∈ s, f a = g a) :
   · rw [Finset.sum_congr rfl h]
   · exact Finset.prod_congr rfl fun a ha => by rw [h a ha]
 
+theorem multinomial_congr_of_sdiff [DecidableEq α] {f g : α → ℕ} {s t : Finset α}
+    (hst : s ⊆ t) (hg : ∀ a ∈ t \ s, g a = 0) (hfg : ∀ a ∈ s, f a = g a) :
```
Comment (fpvandoorn) [inline Mathlib/Data/Nat/Choose/Multinomial.lean]: Does it make sense to have a version of this lemma with assumptions
```
(hf : ∀ a ∈ s \ t, f a = 0) (hg : ∀ a ∈ t \ s, g a = 0) (hfg : ∀ a ∈ s ∩ t, f a = g a)
```
That is more general and more symmetrical. Your version could be a special case if that is useful in your use case.

bors d+

Comment (mariainesdff) [reply Mathlib/Data/Nat/Choose/Multinomial.lean]: I think the lemma with these assumptions would be false - for instance, if `s` and `t` are disjoint, there would be no condition relating `f` and `g`.

Comment (mariainesdff) [reply Mathlib/Data/Nat/Choose/Multinomial.lean]: Ah wait, I guess in that case both functions are 0 on the relevant sets.

Comment (mariainesdff) [reply Mathlib/Data/Nat/Choose/Multinomial.lean]: I added the suggested version with the name `multinomial_congr_of_eq_on_inter` and kept the name `multinomial_congr_of_sdiff` for the existing version, for consistency with the corresponding Finset.prod lemmas.
